### PR TITLE
Auto-instantiate proof of adjunction alongside section and retraction (cf., #57)

### PR DESCRIPTION
**Pull request by nateyazdani**
This PR pulls in Jasper's HoTT module for adjointifying equivalences and applies its generic lemmas when equivalence-proving is enabled. The module is placed at `theories/Adjoint.v`.

For an ornament named `${ornament}`, this feature instantiates Jasper's `fg_id'` (to adjointify retraction) as `${ornament}_retraction` and `f_adjoint` (to prove adjunction) as `${ornament}_adjunction`.

The initial retraction proof (which is an input to the previous two lemmas) is now generated as `${ornament}_retraction0` to prevent a name collision. To actually benefit from the adjunction theorem, rewritings need to use the adjointified retraction lemma, hence the preferential naming scheme.

The test script (`test.sh`) passes successfully.

Some potential design concerns:
- Are you okay with adjunction sharing the same proof-generation option as section+retraction?
- Do you want the `Adjoint.v` module translated to use Ltac proof scripts instead of terms?
- Is the need to use adjointified retraction lemmas a problem? I wouldn't think so, but I wanted to mention it because the two versions' definitional equalities don't coincide (_e.g._, `refold_retraction` in `Example.v` does not hold, though a different proof could plausibly work).

If satisfactory, this feature would resolve issue #57.

### CODE REVIEW

File: plugin/coq/examples/Example.v [hunk 1]
```diff
@@ -68,12 +68,17 @@ Find ornament list vector as ltv.
...
-(* 
+(*
  * As mentioned in the paper, these form an equivalence.
  * This is proven automatically by the prove equivalence option.
  * See Search.v for a detailed walkthrough of the output.
  *)
 
+Check ltv_section.
+Check ltv_retraction.
+Check ltv_adjunction.
```
Comment (tlringer) [inline plugin/coq/examples/Example.v]: I would remove these checks from this example, and instead add a bit about adjunction to Search.v.

File: plugin/coq/examples/Example.v [hunk 2]
```diff
@@ -68,12 +68,17 @@ Find ornament list vector as ltv.
...
+Definition ltv_adjunction' : forall A x, ltv_retraction A (ltv A x) = f_equal (ltv A) (ltv_section A x) := ltv_adjunction.
```
Comment (tlringer) [inline plugin/coq/examples/Example.v]: Why is this here?

File: plugin/coq/examples/Example.v [hunk 3]
```diff
@@ -222,3 +227,32 @@ Defined.
 Definition BVand' {n : nat} (v1 : vector bool n) (v2 : vector bool n) : vector bool n :=
   zip_withV_uf andb v1 v2.
 
+
+Lemma refold_section:
```
Comment (tlringer) [inline plugin/coq/examples/Example.v]: I had these here before when I was playing with the code, but we should remove these

File: plugin/src/automation/equivalence.ml [hunk 4]
```diff
@@ -245,3 +247,60 @@ let equiv_proof env evd l =
  * Prove section and retraction
  *)
 let prove_equivalence env evd = twice_directional (equiv_proof env evd)
+
+
+let lookup_constant = Libnames.qualid_of_string %> Nametab.locate_constant
```
Comment (tlringer) [inline plugin/src/automation/equivalence.ml]: We should move these to the lib, but I can take care of that post-merge

File: plugin/src/automation/equivalence.ml [hunk 5]
```diff
@@ -245,3 +247,60 @@ let equiv_proof env evd l =
...
+
+let fresh_constant env evd const =
```
Comment (tlringer) [inline plugin/src/automation/equivalence.ml]: Same here, I'll move to lib later

File: plugin/src/automation/equivalence.ml [hunk 6]
```diff
@@ -245,3 +247,60 @@ let equiv_proof env evd l =
...
+  let (evd, adjointifier) =
+    lookup_constant "Ornamental.Adjoint.fg_id'" |> fresh_constant env evd
+  in
+  let evd, ctxt, pre_adjunct = quantify_pre_adjunction env evd pre_adj in
+  evd, recompose_lam_assum ctxt (mkApp (adjointifier, pre_adjunct))
+
+(*
+ * Prove adjunction.
+ *
+ * TODO: Return a companion type expressed in terms of the augmented retraction
```
Comment (tlringer) [inline plugin/src/automation/equivalence.ml]: Can you just add this to issues?

File: plugin/theories/Adjoint.v [hunk 7]
```diff
@@ -0,0 +1,96 @@
+(** Credit to Jasper Hugunin (jashug) for this module. *)
```
Comment (tlringer) [inline plugin/theories/Adjoint.v]: Link to the source here, and check if there is a license

File: plugin/src/frontend.ml [hunk 8]
```diff
@@ -34,27 +34,43 @@ let maybe_prove_coherence n inv_n idx_n : unit =
...
     let l = initialize_lifting env evd promote forget in
     let (section, retraction) = prove_equivalence env evd l in
-    let sec_n = with_suffix n "section" in
-    let _ = define_term sec_n evd section true in
-    Printf.printf "Defined section proof %s\n\n" (Id.to_string sec_n);
-    let rec_n = with_suffix n "retraction" in
-    let _ = define_term rec_n evd retraction true in
-    Printf.printf "Defined retraction proof %s\n\n" (Id.to_string rec_n)
+    let sect = define_proof "section" evd section in
+    let retr0 = define_proof "retraction0" evd retraction ~adjective:"pre-retraction" in
```
Comment (tlringer) [inline plugin/src/frontend.ml]: I would keep this one named as "retraction." Then rename the adjointify version to "retraction_adjointify" or something. Then, to get back a type you want for adjunction, pass the type explicitly to refer to the original retraction.  Though, if that is too hard for now, it is OK to just manually check that type in the tests.

File: plugin/coq/examples/Example.v [hunk 9]
```diff
@@ -222,3 +227,32 @@ Defined.
...
+        l
+        (fun l0 => t :: l = t :: l0)
+        (erefl (t :: l))
+        (ltv_inv T (ltv T l))
+        (eq_sym (ltv_section T l))).
+Proof.
+  intros. unfold ltv_section. rewrite eq_sym_involutive. f_equal.
+Qed.
+
+Lemma refold_retraction:
```
Comment (tlringer) [inline plugin/coq/examples/Example.v]: Same, please remove my useless old code :)

File: plugin/src/automation/equivalence.ml [hunk 10]
```diff
@@ -245,3 +247,60 @@ let equiv_proof env evd l =
...
+  sect : Names.Constant.t;
+  retr0 : Names.Constant.t
+}
+
+(*
+ * Prepare quantification for an almost-adjoint equivalence, by pulling out
+ * all the type-quantified values (i.e., type parameters/indices) into a new
+ * local context before giving back an argument list for the adjunction lemmas.
+ *)
+let quantify_pre_adjunction env evd { orn; sect; retr0 } =
```
Comment (tlringer) [inline plugin/src/automation/equivalence.ml]: I may tweak some of the code here when I refactor with the new library, but this looks good for now

File: plugin/src/automation/equivalence.mli [hunk 11]
```diff
@@ -11,3 +12,22 @@ open Lifting
...
 val prove_equivalence : env -> evar_map -> lifting -> (types * types)
+
+type pre_adjoint = {
+  orn : lifting;
+  sect : Constant.t;
+  retr0 : Constant.t
+}
+
+(*
+ * Augment the initial retraction proof in order to prove adjunction.
```
Comment (tlringer) [inline plugin/src/automation/equivalence.mli]: Please explain this a bit more (why we need this) in the comment in the interface

File: plugin/src/frontend.ml [hunk 12]
```diff
@@ -34,27 +34,43 @@ let maybe_prove_coherence n inv_n idx_n : unit =
...
+    let pre_adjoint = { orn = l; sect; retr0 } in
+    let _ =
+      let env = Global.env () in
+      let evd = Evd.from_env env in
+      let (evd, retraction) = adjointify_retraction env evd pre_adjoint in
+      define_proof "retraction" evd retraction
+    in
+    let _ =
+      let env = Global.env () in
```
Comment (tlringer) [inline plugin/src/frontend.ml]: Same here

File: plugin/src/frontend.ml [hunk 13]
```diff
@@ -34,27 +34,43 @@ let maybe_prove_coherence n inv_n idx_n : unit =
...
-    let _ = define_term sec_n evd section true in
-    Printf.printf "Defined section proof %s\n\n" (Id.to_string sec_n);
-    let rec_n = with_suffix n "retraction" in
-    let _ = define_term rec_n evd retraction true in
-    Printf.printf "Defined retraction proof %s\n\n" (Id.to_string rec_n)
+    let sect = define_proof "section" evd section in
+    let retr0 = define_proof "retraction0" evd retraction ~adjective:"pre-retraction" in
+    let pre_adjoint = { orn = l; sect; retr0 } in
+    let _ =
+      let env = Global.env () in
```
Comment (tlringer) [inline plugin/src/frontend.ml]: Clarify explicitly in the code why we need a new environment and evar_map: We have just defined some terms, so we need the updated global environment that has those terms, and the corresponding evar_map with updated constraints. Can just be a comment if you'd like, or you can have a "refresh_environment" function that defines a new global env and gets a new evar_map for that env, with its name serving as documentation.

**Comment by tlringer** [comment]
Linking to #39 also

File: plugin/src/automation/equivalence.ml (hunk 6 above)
Comment (nateyazdani) [reply plugin/src/automation/equivalence.ml]: Done, see #74

File: plugin/coq/examples/Example.v (hunk 2 above)
Comment (nateyazdani) [reply plugin/coq/examples/Example.v]: Added a comment to explain. This definition just shows that the adjunction proof definitionally has the nicer type in terms of `${ornament}_retraction`, rather than `fg_id'` applied to `${ornament}_retraction0`. See issue #74.

File: plugin/coq/examples/Example.v (hunk 3 above)
Comment (nateyazdani) [reply plugin/coq/examples/Example.v]: Done.

File: plugin/theories/Adjoint.v (hunk 7 above)
Comment (nateyazdani) [reply plugin/theories/Adjoint.v]: Done. It's MIT licensed.

File: plugin/coq/examples/Example.v (hunk 9 above)
Comment (nateyazdani) [reply plugin/coq/examples/Example.v]: Done.

File: plugin/src/automation/equivalence.mli (hunk 11 above)
Comment (nateyazdani) [reply plugin/src/automation/equivalence.mli]: Done. Is the expanded comment detailed enough?

File: plugin/src/frontend.ml (hunk 12 above)
Comment (nateyazdani) [reply plugin/src/frontend.ml]: Done.

File: plugin/src/frontend.ml (hunk 13 above)
Comment (nateyazdani) [reply plugin/src/frontend.ml]: Done. I just inserted comments.

File: plugin/src/frontend.ml (hunk 8 above)
Comment (nateyazdani) [reply plugin/src/frontend.ml]: Are you sure about this naming scheme? The user should basically never touch the original retraction proof if they want to use adjunction.

I might not be following your point about the adjunction proof's type, but if I am, then that's what we already do. The inferred type for the adjunction proof is in terms of the original retraction proof (`${ornament}_retraction0`) wrapped with the adjointify lemma (`fg_id'`). Ideally, the user should just work with the adjointified retraction proof, for which the adjunction lemma has exactly the desired type.

File: plugin/coq/examples/Example.v (hunk 1 above)
Comment (nateyazdani) [reply plugin/coq/examples/Example.v]: Done.

**Comment by nateyazdani** [comment]
All requests for changes have been addressed, with the exception of the naming scheme and a line in the example script; I asked follow-up questions in reply to those comments.

All tests pass.

**Comment by nateyazdani** [comment]
Ah, it seems that I've let this linger too long, and there are now merge conflicts. They're pretty innocuous, so I'll leave them be for now, in case you'd like to inspect.

File: plugin/coq/examples/Example.v (hunk 2 above)
Comment (tlringer) [reply plugin/coq/examples/Example.v]: Yeah these checks should not be in this file

File: plugin/src/frontend.ml (hunk 8 above)
Comment (tlringer) [reply plugin/src/frontend.ml]: Yes, I am sure

**Comment by tlringer** [comment]
Yeah, don't bother trying the merge, I'll do it once everything is addressed

File: plugin/coq/examples/Example.v (hunk 2 above)
Comment (nateyazdani) [reply plugin/coq/examples/Example.v]: Done.

File: plugin/src/frontend.ml (hunk 8 above)
Comment (nateyazdani) [reply plugin/src/frontend.ml]: Done. The adjointified retraction proof is now called `${ornament}_retraction_adjoint`.

**Comment by nateyazdani** [comment]
All done with requested changes! After switching the initial retraction name back to `${ornament}_retraction`, I used `${ornament}_retraction_adjoint` for the adjointified version.

**Comment by tlringer** [comment]
LGTM, I will take over and try the merge.

**Comment by tlringer** [comment]
Thanks for the great work!!
